Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old woman with a past medical history of 
bipolar disorder, obesity s/p Roux-en-Y gastric bypass and prior 
cholecystectomy who is referred from OSH after found to have 
pancreatitis and an enlarged common bile duct on imaging.

The patient initially developed abdominal pain abut 4 days ago, 
associated with nausea and vomiting. She developed epigastric 
pain after eating a bag of chips, felt like "insides were torn 
up", with nausea and non bloody non bilious emesis. She waited 
two hours before trialing PO again with similar sxs. Since then 
she has had very poor PO intake over the last 4 days. No BMs, 
maintaining PO liquids. She presented to OSH today where her 
labs were notable for elevated LFTs (AST 754, ALT 616, Tbili 
2.7, Alk phos 387). CT showed findings of pancreatitis as well 
as an enlarged common bile duct. Given these findings she was 
transferred to ___ for possible ERCP. Before transfer, patient 
was given morphine, zofran, famotidine as well as 4.5g zosyn at 
OSH.

In the ED, initial VS were: 98.4 60 111/68 20 95% RA  
ED physical exam was recorded as obese, poor dentition, 
tenderness to palpation in the epigastric region. The abdomen is 
soft and nondistended without rebound or guarding. 

ED labs were notable for: WBC 12.7, ALT: 248, AST: 97, AP: 394, 
Tbili: 3.9, Lip: 29, Lactate: 1.2

Patient was given: ___ 20:27 IVF 1000 mL NS 1000 mL  

Transfer VS were: 98.0 53 133/74 16 98% RA
 
When seen on the floor, patient is asymptomatic. She's denying 
any recent fever, chest pain, shortness of breath, dysuria. She 
has not had a bowel movement in four days.

REVIEW OF SYSTEMS: 
 A ten point ROS was conducted and was negative except as above 
in the HPI.

 
Past Medical History:
Bipolar disorder 
Obesity s/p Roux-en-Y gastric bypass 
Prior cholecystectomy

 
Social History:
___
Family History:
Mother had endometrial cancer
Aunt had colon, breast and lung cancer
 
Physical Exam:
On Admission:
Gen: NAD, lying in bed
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear
Cardiovasc: RRR, no MRG, full pulses, no edema  
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, obese, NT, ND, BS+
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop.
Psych: Full range of affect

On Discharge:
VITALS: 98.2 122/69 50 18 95% RA
GEN: Obese, lying in bed in NAD
HEENT: EOMI, sclerae anicteric, MMM, OP clear, fair oral
dentition 
NECK: No LAD, no JVD
CARDIAC: RRR, no M/R/G
PULM: normal effort, no accessory muscle use, LCAB
GI: Soft, nontender to deep palpation of the epigastrum and RUQ,
otherwise nontender throughout, normoactive bowel sounds
MSK: No visible joint effusions or deformities.
DERM: No visible rash. No jaundice.
NEURO: AAOx3. No facial droop, moving all extremities.
PSYCH: Full range of affect
EXTREMITIES: WWP, no edema

 
Pertinent Results:
OSH Labs: ___ --> ___
TBili: 2.7 --> 4.4
Alk Phos: 387 --> 443
AST: 754 --> 152
ALT: 616 --> 347
Lipase 126

___ 08:45PM   ___ PTT-29.9 ___
___ 08:20PM   WBC-12.7* RBC-4.10 HGB-11.8 HCT-35.9 MCV-88 
MCH-28.8 MCHC-32.9 RDW-14.6 RDWSD-47.1*
___ 08:20PM   PLT COUNT-314
___ 08:20PM   GLUCOSE-116* UREA N-7 CREAT-0.6 SODIUM-135 
POTASSIUM-3.8 CHLORIDE-99 TOTAL CO2-22 ANION GAP-18
___ 08:20PM   ALT(SGPT)-248* AST(SGOT)-97* ALK PHOS-394* 
TOT BILI-3.9*
___ 08:20PM   LIPASE-29
___ 08:20PM   ALBUMIN-3.9
___ 08:20PM   LACTATE-1.2

CT a/p at OSH:
Mild to moderate intrahepatic biliary ductal dilatation.
Mild to moderate hypodensity involving the pancreatic head and 
neck, with mild surrounding mesenteric stranding, suggestive of 
acute pancreatitis.
Small fat containing umbilical hernia

MRCP ___
1. Acute pancreatitis without evidence of parenchymal necrosis, 
fluid
collections, or vascular complications.  There is no evidence of 
stones within the remnanant cystic duct or remnant CBD, pancreas 
divisum, or other causes of pancreatitis.
2. A 3 mm side branch IPMN is seen in the pancreatic body. A 
MRCP in ___ year is recommended for follow up.
 
RECOMMENDATION(S):  A MRCP in ___ year is recommended.

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a past medical history of 
bipolar disorder, obesity s/p Roux-en-Y gastric bypass and prior 
cholecystectomy who is referred from OSH after found to have 
pancreatitis and an enlarged common bile duct on imaging, 
consistent with possible gallstone pancreatitis.

# Abdominal pain
# Pancreatitis
# Enlarged common bile duct
# Elevated LFTs
The constellation of abdominal pain with associated findings of 
pancreatitis, enlarged common bile duct and elevated LFTs in a 
cholestatic pattern suggest possible gallstone induced 
pancreatitis. She was treated with IVF and NPO overnight. By the 
following morning her symptoms had resolved entirely. She 
underwent MRCP which revealed acute pancreatitis without 
evidence of parenchymal necrosis, fluid
collections, or vascular complications. There was no evidence of 
stones, pancreatic divisum, or other causes of pancreatitis. Her 
LFTS were downtrending by the second hospital day. Clinically 
she felt very well and tolerated a regular diet without 
difficulty. It is likely that she had a stone causing 
obstruction that passed on its own.

She is discharged home but should schedule follow up with her 
PCP ___ 1 week of discharge. She should have repeat LFTs at 
that visit.

Of note, MRCP revealed a 3 mm side branch IPMN is seen in the 
pancreatic body. A MRCP in ___ year is recommended for follow up. 

# Bipolar disorder: The patient was continued on home 
oxcarbazepine, risperidone,
benztropine, citalopram.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OXcarbazepine 600 mg PO BID 
2. Omeprazole 20 mg PO DAILY 
3. Sucralfate 1 gm PO QID 
4. RisperiDONE 2 mg PO QHS 
5. Benztropine Mesylate 1 mg PO BID 
6. Citalopram 40 mg PO DAILY 

 
Discharge Medications:
1.  Benztropine Mesylate 1 mg PO BID  
2.  Citalopram 40 mg PO DAILY  
3.  Omeprazole 20 mg PO DAILY  
4.  OXcarbazepine 300 mg PO BID  
5.  RisperiDONE 1 mg PO QHS  
6.  Sucralfate 1 gm PO QID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You presented with abdominal pain. Imaging revealed dilation of 
your bile ducts and pancreatitis. Given concern for stones 
causing inflammation of your pancreas you were admitted to ___ 
for possible stone extraction. Repeat imaging revealed normal 
biliary system and no stones. It is likely that you passed the 
stone that was causing you symptoms. At this time your symptoms 
have resolved and your are being discharged home.
  
It was a pleasure to be a part of your care, 
Your ___ treatment team
 
Followup Instructions:
___